US07285557B2
1-(2-Bromoethoxy)-2-methoxy-4-nitrobenzene
4-Nitroguaiacol (1.0171 g, 6.0134 mmol) was dissolved in anhydrous DMF (20 mL). Cesium carbonate (3.9207 g, 12.0268 mmol) and 1,2-dibromoethane (2.07 mL, 24.0534 mmol) were added. The reaction was heated to 80° C. and stirred for 18 h. The mix was then cooled to RT and diluted with EtOAc (100 mL), washed with water (3×100 mL), and the organics dried over MgSO4, filtered and concentrated. The residue was filtered through a 3″ plug of basic alumina (100% CH2Cl2) to give 0.7075 g (2.5634 mmol, 42%) of the product as a white solid. 1H NMR (CDCl3) δ 7.90 (d, 1H, J=8.8 Hz), 7.78 (s, 1H), 6.92 (d, 1H, J=8.8 Hz), 4.42 (t, 2H, J=6.4 Hz), 3.96 (s, 3H), 3.70 (t, 2H, J=6.5 Hz).

reactant | 4-Nitroguaiacol | 6.0134 mmol, 1.0171 g | [N+](=O)([O-])C=1C=C(C(=CC1)OC)O | C7H7NO4
reactant | Cesium carbonate | 12.0268 mmol, 3.9207 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,2-dibromoethane | 24.0534 mmol, 2.07 mL | BrCCBr | C2H4Br2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-(2-Bromoethoxy)-2-methoxy-4-nitrobenzene | 2.5634 mmol, 0.7075 g, 42% | BrCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H10BrNO4
